US05484917
A. 2,4-Diphenylcyclohexanone
The oil was dissolved in 400 mL benzene and added dropwise over 40 minutes to 83 mL (250 mmol) of a 3.0 M solution of phenylmagnesium bromide in ether, cooling so the temperature did not rise above 10° C. The reaction was then allowed to warm and heated to reflux for 14 hours. It was then cooled, quenched with aqueous ammonium chloride solution, then washed with water and brine, dried over sodium sulfate, and evaporated. The yield was 53.9 g (approximately theoretical), and the crude oil was used directly in the next step.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ether | CCOCC | C4H10O
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 2,4-Diphenylcyclohexanone | C1(=CC=CC=C1)C1C(CCC(C1)C1=CC=CC=C1)=O | C18H18O
